US05922725
N-(3-Bromophenyl)-4-acetyl-2-nitroaniline:
A mixture of 4-acetyl-2-nitroaniline (3.41 g, 18.94 mmol), 1,3-dibromobenzene (4.6 ml, 38.06 mmol), potassium carbonate (2.62 g, 19 mmol) and a catalytic amount of copper bronze is heated with stirring to 180° C. under a stream of nitrogen for 2 days. After cooling the solid reaction cake is extracted with a mixture of dichloromethane and methanol (9:1). The extract is concentrated under reduced pressure. The residue is extracted with ethyl acetate. This extract is concentrated under reduced pressure and the residue is eluted through silica gel with a mixture of petroleum ether and ethyl acetate (4:1) to afford the pure product. Yield 0.67 g (10.6%). Mp. 142-144° C.

reactant | 4-acetyl-2-nitroaniline | 18.94 mmol, 3.41 g | C(C)(=O)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H8N2O3
reactant | 1,3-dibromobenzene | 38.06 mmol, 4.6 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium carbonate | 19 mmol, 2.62 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper bronze | [Cu] | Cu
product | N-(3-Bromophenyl)-4-acetyl-2-nitroaniline | BrC=1C=C(C=CC1)NC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C14H11BrN2O3
